US20010012901A1
A mixture of 2,3,5-trimethylphenol (10.0 g), ethyl 4-bromobutyrate (12.6 ml), potassium carbonate (12.2 g), and dimethylformamide (DMF, 100 ml) was stirred at room temperature overnight. The reaction mixture was poured into a mixture of ethyl acetate (AcOEt) and water. The separated organic phase was washed with a saturated aqueous solution of sodium hydrocarbonate (sat. NaHCO3aq.), water, and brine, and was dried over magnesium sulfate (MaSO4). After evaporation, the resulting residue was purified by chromatography over silica gel (CHCl3 as eluent) to give ethyl 4-(2,3,5-trimethylphenoxy)butyrate (16.35 g) as an oil compound.

reactant | 2,3,5-trimethylphenol | 10.0 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | ethyl 4-bromobutyrate | 12.6 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(2,3,5-trimethylphenoxy)butyrate | 16.35 g | CC1=C(OCCCC(=O)OCC)C=C(C=C1C)C | C15H22O3
